US07417047B2
Step c) Preparation of 2-amino-5-(3-bromophenyl)-5-(1-ethyl-5-propionyl-1H-pyrrol-3-yl)-3-methyl-3,5-dihydro-4H-imidazol-4-one:
A mixture of 1-(3-bromo-phenyl)-2-[5-propionyl-1-(2,2,2-trifluoro-ethyl)-1H-pyrrole-3-yl]-ethane-1,2-dione (4.5 g, 0.0108 mol), methylguanidine (2.36 g, 0.0216 mol) and sodium carbonate (2.28 g, 0.0216 mol) in 100 ml ethanol is heated to reflux for three hours. The solvent is evaporated to dryness and the residue is flash chromatographed on silica gel with eluent EtOAc/Ethanol (containing 2 mol ammonia) to afford the product 3.8 gram (75%) as an off-white solid, mp 100-102° C.,

reactant | 1-(3-bromo-phenyl)-2-[5-propionyl-1-(2,2,2-trifluoro-ethyl)-1H-pyrrole-3-yl]-ethane-1,2-dione | 0.0108 mol, 4.5 g | BrC=1C=C(C=CC1)C(C(=O)C1=CN(C(=C1)C(CC)=O)CC(F)(F)F)=O | C17H13BrF3NO3
reactant | methylguanidine | 0.0216 mol, 2.36 g | CNC(=N)N | C2H7N3
reactant | sodium carbonate | 0.0216 mol, 2.28 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | EtOAc Ethanol | 2 mol | CCOC(=O)C.C(C)O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-5-(3-bromophenyl)-5-(1-ethyl-5-propionyl-1H-pyrrol-3-yl)-3-methyl-3,5-dihydro-4H-imidazol-4-one | 3.8 gram, 75% | NC1=NC(C(N1C)=O)(C1=CN(C(=C1)C(CC)=O)CC)C1=CC(=CC=C1)Br | C19H21BrN4O2
